US05298390
Preparation of 1-Chloromethylbenzotriazole:
To 1-hydroxymethylbenzotriazole (59.6 g), prepared above, kept at ice-bath temp., 175 ml of thionyl chloride was added dropwise as long as a vigorous reaction continued. The reminder was added more rapidly. The mixture was then stirred and refluxed for 90 minutes. Excess thionyl chloride was removed by distillation, the last traces were removed by heating for a short time with 200 ml of methanol. After cooling and collecting on a funnel, the product weighted 45 g. (67%); melting point: 136° C; (lit. 136°-138° C.).

reactant | 1-hydroxymethylbenzotriazole | 59.6 g | OCN1N=NC2=C1C=CC=C2 | C7H7N3O
reactant | thionyl chloride | 175 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-Chloromethylbenzotriazole | ClCN1N=NC2=C1C=CC=C2 | C7H6ClN3
